US06759554B2
1-Phenylbenzotriazole
Using the general procedure, benzotriazole (0.119 g, 1.00 mmol) was coupled with iodobenzene (134 μL, 1.20 mmol) using CuI (9.5 mg, 0.050 mmol, 5.0 mol %), K3PO4 (2.1 mmol), trans-N,N′-dimethyl-1,2-cyclohexanediamine (16 μL, 0.10 mmol, 10 mol %) and dimethylformamide (1.0 mL) to give the crude product. Column chromatography (2×15 cm, hexane:ethyl acetate 9:1) provided 0.186 g (95% yield) of the product as a white solid. 1H NMR (400 MHz, CDCl3): δ8.17 (m, 1H), 7.78 (m, 3H), 7.62 (m, 2H), 7.55 (m, 2H), 7.42 (m, 1H).

reactant | benzotriazole | 1.00 mmol, 0.119 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | iodobenzene | 1.20 mmol, 134 μL | IC1=CC=CC=C1 | C6H5I
reactant | K3PO4 | 2.1 mmol | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trans-N,N′-dimethyl-1,2-cyclohexanediamine | 0.10 mmol, 16 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | CuI | 0.050 mmol, 9.5 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 1-Phenylbenzotriazole | 0.186 g, 95% yield | C1(=CC=CC=C1)N1N=NC2=C1C=CC=C2 | C12H9N3
